### PR TITLE
[Merged by Bors] - chore: split Mathlib.Analysis.Asymptotics.Asymptotics

### PR DESCRIPTION
**Pull request by kim-em**
This was a long file.

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
Splitting files is great, thanks for doing this!
Can you remove the `DownstreamTest` submodule again? Also, the `assertImported` test needs adjustment.

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 1]
```diff
@@ -0,0 +1,792 @@
...
+  [SeminormedRing R']
+
+variable [NormedDivisionRing 𝕜] [NormedDivisionRing 𝕜']
+variable {c c' c₁ c₂ : ℝ} {f : α → E} {g : α → F} {k : α → G}
+variable {f' : α → E'} {g' : α → F'} {k' : α → G'}
+variable {f'' : α → E''} {g'' : α → F''} {k'' : α → G''}
+variable {l l' : Filter α}
+
+
+
```
Comment (b-mehta) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean:40]:
```suggestion

```

Comment (b-mehta) [reply Mathlib/Analysis/Asymptotics/Lemmas.lean:40]: (I'm not completely sure that the diff I created here is the right one, but I hope you understand what my intention was!)

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 2]
```diff
@@ -0,0 +1,789 @@
...
+theorem IsBigO.of_pow {f : α → 𝕜} {g : α → R} {n : ℕ} (hn : n ≠ 0) (h : (f ^ n) =O[l] (g ^ n)) :
+    f =O[l] g := by
+  rcases h.exists_pos with ⟨C, _hC₀, hC⟩
+  obtain ⟨c : ℝ, hc₀ : 0 ≤ c, hc : C ≤ c ^ n⟩ :=
+    ((eventually_ge_atTop _).and <| (tendsto_pow_atTop hn).eventually_ge_atTop C).exists
+  exact (hC.of_pow hn hc hc₀).isBigO
+
+/-! ### Scalar multiplication -/
+
+
```
Comment (kim-em) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean:208]:
```suggestion
```

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 3]
```diff
@@ -0,0 +1,789 @@
...
+theorem IsLittleO.finsetProd {R 𝕜 : Type*} [SeminormedCommRing R] [NormedField 𝕜]
+    {s : Finset ι} {f : ι → α → R} {g : ι → α → 𝕜} (h₁ : ∀ i ∈ s, f i =O[l] g i)
+    (h₂ : ∃ i ∈ s, f i =o[l] g i) : (∏ i ∈ s, f i ·) =o[l] (∏ i ∈ s, g i ·) :=
+  .multisetProd h₁ h₂
+
+end Prod
+
+/-! ### Relation between `f = o(g)` and `f / g → 0` -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean:351]:
```suggestion
```

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 4]
```diff
@@ -0,0 +1,789 @@
...
+  isLittleO_const_left.2 <| .inr tendsto_norm_cobounded_atTop
+
+theorem isLittleO_const_id_atTop (c : E'') : (fun _x : ℝ => c) =o[atTop] id :=
+  isLittleO_const_left.2 <| Or.inr tendsto_abs_atTop_atTop
+
+theorem isLittleO_const_id_atBot (c : E'') : (fun _x : ℝ => c) =o[atBot] id :=
+  isLittleO_const_left.2 <| Or.inr tendsto_abs_atBot_atTop
+
+/-! ### Equivalent definitions of the form `∃ φ, u =ᶠ[l] φ * v` in a `NormedField`. -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean:419]:
```suggestion
```

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 5]
```diff
@@ -0,0 +1,789 @@
...
+    rintro ⟨φ, hφ, huvφ⟩ c hpos
+    rw [NormedAddCommGroup.tendsto_nhds_zero] at hφ
+    exact isBigOWith_of_eq_mul _ ((hφ c hpos).mono fun x => le_of_lt) huvφ
+
+alias ⟨IsLittleO.exists_eq_mul, _⟩ := isLittleO_iff_exists_eq_mul
+
+end ExistsMulEq
+
+/-! ### Miscellaneous lemmas -/
+
```
Comment (kim-em) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean:477]:
```suggestion
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by b-mehta** [comment]
Thanks!

bors merge
